US03931181
A solution of 10.6 g. of α-cyano-3,5-dimethoxy-4-methoxy-carbonyl-cinnamic acid ethyl ester in 500 ml. of ethanol was hydrogenated in the presence of 0.5 g. of palladium-on-carbon (5%) at room temperature and 760 mm. of mercury. After the uptake of an equivalent of hydrogen (810 ml.), the hydrogenation was interrupted. The catalyst and partially precipitated product were removed by filtration with suction and washed on the filter with benzene. The filtrate was evaporated to dryness. The residue was recrystallized from ethyl acetate and yielded α-cyano-3,5-dimethoxy-4-methoxycarbonyl-dihydro-cinnamic acid ethyl ester having a m.p. of 119°-121°C.

reactant | α-cyano-3,5-dimethoxy-4-methoxy-carbonyl-cinnamic acid ethyl ester | C(C)OC(C(=CC1C(C(=C(C(=C1)OC)OC)OC)=C=O)C#N)=O | C16H17NO6
reactant | hydrogen | 810 ml | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
catalyst | mercury | [Hg] | Hg
solvent | ethanol | C(C)O | C2H6O
product | α-cyano-3,5-dimethoxy-4-methoxycarbonyl-dihydro-cinnamic acid ethyl ester | C(C)OC(C(=CC1CC(=C(C(=C1)OC)C(=O)OC)OC)C#N)=O | C16H19NO6
